US06613743B2
A mixture of 3-benzyloxybenzenesulfonyl chloride (65 mg; 0.230 mmol), (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-benzyl-3-[(cyclohexyloxy)amino]-2-hydroxypropylcarbamate (100 mg, 0.230 mmol) and diisoproylethylamine (0.042 mL, 0.242 mmol) in anhydrous tetrahydrofuran (3 mL) was stirred at ambient temperature under an Argon atmosphere for 16 hours. A catalytic quantity of dimethylaminopyridine (˜1 mg) was added and the reaction was heated at reflux for approximately one hour. An additional quantity of 3-benzyloxybenzenesulfonyl chloride (13 mg, 0.046 mmol) was added and the reaction was heated at reflux for approximately 1 hour. After cooling to ambient temperature, the reaction mixture was partitioned between ethyl acetate and aqueous hydrochloric acid. The phases were separated and the organic layer was then washed with brine, dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo. The residue was dried under high vacuum to provide (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-benzyl-3-[{[3-(benzyloxy)phenyl]sulfonyl}(cyclohexyloxy)amino]-2-hydroxypropylcarbamate (140 mg, 89%). H1-NMR (chloroform-D3): 1.22 (m, 6H), 1.62 (m, 5H), 2.05 (m, 2H), 2.90 (m, 4H), 3.11 (b, 1H), 3.66 (m, 2H), 3.87 (m, 4H), 4.18 (m, 1H), 4.77 (m, 1H), 4.95 (m, 1H), 5.10 (m, 2H), 5.60 (d, 1H), 7.29 (m, 14H). MS(ESI): 703(M+Na).

reactant | 3-benzyloxybenzenesulfonyl chloride | 0.230 mmol, 65 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1)S(=O)(=O)Cl | C13H11ClO3S
reactant | (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-benzyl-3-[(cyclohexyloxy)amino]-2-hydroxypropylcarbamate | 0.230 mmol, 100 mg | C(C1=CC=CC=C1)[C@@H]([C@@H](CNOC1CCCCC1)O)NC(O[C@H]1CO[C@H]2OCC[C@H]21)=O | C23H34N2O6
reactant | diisoproylethylamine | 0.242 mmol, 0.042 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-benzyloxybenzenesulfonyl chloride | 0.046 mmol, 13 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1)S(=O)(=O)Cl | C13H11ClO3S
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
catalyst | dimethylaminopyridine | ˜1 mg | CN(C)C1=NC=CC=C1 | C7H10N2
product | (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-benzyl-3-[{[3-(benzyloxy)phenyl]sulfonyl}(cyclohexyloxy)amino]-2-hydroxypropylcarbamate | 140 mg, 89% | C(C1=CC=CC=C1)[C@@H]([C@@H](CN(OC1CCCCC1)S(=O)(=O)C1=CC(=CC=C1)OCC1=CC=CC=C1)O)NC(O[C@H]1CO[C@H]2OCC[C@H]21)=O | C36H44N2O9S
